US07816522B2
(10a) (3-methoxy-5-methoxymethylphenyl)methanol
To a solution of the residue in 10 ml of THF there was added 4.3 ml of TBAF (1.0 M, THF solution) at 0° C., and the mixture was stirred at room temperature for 17 hours and 30 minutes. Water was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine, and then dried over anhydrous sodium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (618 mg) as a light yellow oil.

reactant | TBAF | 1.0 M, 4.3 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | (3-methoxy-5-methoxymethylphenyl)methanol | 618 mg | COC=1C=C(C=C(C1)COC)CO | C10H14O3
